US08012986B2
N-tert-Butyl-3-(6′-methyl-6″-trifluoromethyl-[2,2′;4′,3″]terpyridin-6-yl)-benzenesulfonamide
A stirred mixture of trifluoro-methanesulfonic acid 6′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl ester (Example A.5) (0.193 g, 0.5 mmol), N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide (Example C.2) (0.264 g, 0.455 mmol), tetrakis(triphenyl-phosphine)palladium (0.029 g, 5 mol %) in toluene (5 mL) was heated under reflux conditions for 18 h. Cooled to rt, extracted with ethyl acetate and water, dried the organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the title compound after trituration with diethyl ether as a white solid (110 mg, 42%). MS (ISP) 527.0 [(M+H)+]; mp 187-188° C.

reactant | trifluoro-methanesulfonic acid 6′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl ester | 0.5 mmol, 0.193 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C13H8F6N2O3S
reactant | N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide | 0.455 mmol, 0.264 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-Butyl-3-(6′-methyl-6″-trifluoromethyl-[2,2′;4′,3″]terpyridin-6-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C=1C=NC(=CC1)C(F)(F)F)C | C27H25F3N4O2S
